US04369191
To a solution of 36.27 g of 5-amino-1,2,3-benzenetricarboxylic acid triphenyl ester in 150 ml of pyridine at room temperature is added 12.0 g of 1,3,5,7-naphthalenetetrasulfonyl chloride. The mixture is stirred at room temperature for one hour, heated at 55°-75° C. for 2 hours and then poured into a mixture of 700 ml of water and 140 ml of concentrated hydrochloric acid with vigorous stirring. The mixture is extracted with 500 ml of dichloromethane, filtered and the solid is washed with water and dichloromethane then dried giving 32.4 g of crude product. This product is dissolved in 150 ml of acetone, filtered through celite and diluted with 300 ml of dichloromethane. The mixture is allowed to crystallize in a refrigerator. The solid is collected by filtration, washed with acetone:dichloromethane (1:2) and air dried. Two more crops are recovered by essentially the same procedure. The combined solids are refluxed in 200 ml of acetone, then in a mixture of 700 ml of acetonitrile and 350 ml of methanol. The solid is recovered by filtration and dried at 110° C. overnight giving 21.45 g of 5,5',5",5"'-[1,3,5,7-naphthalenetetrayltetrakis(sulfonylimino)]tetra-1,2,3-benzenetricarboxylic acid, dodecaphenyl ester.

reactant | 5-amino-1,2,3-benzenetricarboxylic acid triphenyl ester | 36.27 g | C1(=CC=CC=C1)OC(=O)C1=C(C(=CC(=C1)N)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1 | C27H19NO6
reactant | 1,3,5,7-naphthalenetetrasulfonyl chloride | 12.0 g | C1(=CC(=CC=2C(=CC(=CC12)S(=O)(=O)Cl)S(=O)(=O)Cl)S(=O)(=O)Cl)S(=O)(=O)Cl | C10H4Cl4O8S4
reactant | water | 700 ml | O | H2O
reactant | hydrochloric acid | 140 ml | Cl | ClH
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 5,5',5",5"'-[1,3,5,7-naphthalenetetrayltetrakis(sulfonylimino)]tetra-1,2,3-benzenetricarboxylic acid, dodecaphenyl ester | 21.45 g | C1(=CC(=CC2=C(C=C(C=C12)S(=O)(=O)NC=1C=C(C(=C(C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1)S(=O)(=O)NC=1C=C(C(=C(C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1)S(=O)(=O)NC=1C=C(C(=C(C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1)S(=O)(=O)NC=1C=C(C(=C(C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1 | C118H76N4O32S4
